US08604211B2
Preparation of S-3-(methyl(5-(pyridin-3-yl)-1,3,4-thiadiazol-2-yl)amino)-3-oxopropyl ethanethioate (Compound 26)
Triethylamine (12 μL, 0.086 mmol, 1.2 equiv) and acetyl chloride (6 μL, 0.08 mmol, 1 equiv) were sequentially added to a stirred solution of 3-mercapto-N-methyl-N-(5-(pyridin-3-yl)-1,3,4-thiadiazol-2-yl)propanamide (20 mg, 0.071 mmol, 1.0 equiv) in 1,2-dichloroethane (1.4 mL) at 23° C. The resulting pale yellow solution was stirred at 23° C. for 16 h. The reaction mixture was directly subjected to silica gel column chromatography (ethyl acetate) to afford the title compound as a white powder (23 mg, 99%): mp 133-135° C.; 1H NMR (300 MHz, CDCl3) δ 9.14 (d, J=2 Hz, 1H), 8.69 (dd, J=5, 2 Hz, 1H), 8.27 (dt, J=8, 2 Hz, 1H), 7.42 (dd, J=8, 5 Hz, 1H), 3.82 (s, 3H), 3.26 (t, J=7 Hz, 2H), 3.03 (t, J=7 Hz, 2H), 2.36 (s, 3H); ESIMS m/z 323 ([M+H]+).

reactant | Triethylamine | 0.086 mmol, 12 μL, 1.2 equiv | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.08 mmol, 6 μL, 1 equiv | C(C)(=O)Cl | C2H3ClO
reactant | 3-mercapto-N-methyl-N-(5-(pyridin-3-yl)-1,3,4-thiadiazol-2-yl)propanamide | 0.071 mmol, 20 mg, 1.0 equiv | SCCC(=O)N(C=1SC(=NN1)C=1C=NC=CC1)C | C11H12N4OS2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,2-dichloroethane | 1.4 mL | ClCCCl | C2H4Cl2
product | S-3-(methyl(5-(pyridin-3-yl)-1,3,4-thiadiazol-2-yl)amino)-3-oxopropyl ethanethioate | 23 mg, 99% | C(C)(SCCC(=O)N(C=1SC(=NN1)C=1C=NC=CC1)C)=O | C13H14N4O2S2
